US07148226B2
4-Cyclopentyl-1-cyclopentyl-butan-1-one
The title compound was prepared analogously to Example A(44), where 3-cyclopentyl propionic acid was substituted in place of 3-cyclohexylpropionic acid in Step 1 of that example.

reactant | 3-cyclopentyl propionic acid | C1(CCCC1)CCC(=O)O | C8H14O2
reactant | 3-cyclohexylpropionic acid | C1(CCCCC1)CCC(=O)O | C9H16O2
product | 4-Cyclopentyl-1-cyclopentyl-butan-1-one | C1(CCCC1)CCCC(=O)C1CCCC1 | C14H24O
